US06472190B1
Synthesis of pyrogallol subsequently switched to a strategy where gallic acid solutions containing PCA contamination were added to the culture medium of RB791serA::aroB/pSK6.234, which carried plasmid-localized aroY and utilized the same system for plasmid maintenance as KL7/pSK6.161. It was unlear whether protocatechuate decarboxylase expressed in RB791serA::aroB/pSK6.234 would have access to the gallic acid added to the culture medium although this strategy, from the outset, benefited from the knowledge that stationary phase E. coli are more tolerant of catechol's toxicity (Draths, K. M. et al., J. Am. Chem. Soc. 117:2395 (1995)). Accordingly, RB791serA::aroB/pSK6.234 was cultured under fermentor conditions to stationary phase. Gallic acid and PCA were added to the culture medium to give conentrations of 115 mM and 4.5 mM, respectively, followed by termination of glucose addition. Airflow was also terminated and the fermentor was sparged with a continuous flow of N2. Within 14 h (FIG. 8), gallic acid and PCA were converted into a solution containing 112 mM pyrogallol (97%) and 4 mM catechol. Repetition of the decarboxylation with culture supernatant produced by KL7/pSK6.161 resulted in a 93% yield of pyrogallol. The concentrations of DHS, DAH, and glutamic acid remained unchanged. Pyrogallol was isolated from cell-free culture supernatants by extraction with EtOAc. Removal of solvent from the charcoal-decolorized organic layer followed by heating under vacuum to remove catechol contamination afforded pyrogallol as a white solid.

reactant | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | Pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
